US04686230
120 g pf 30% strength hydrogen peroxide solution are added dropwise to a solution of 60.9 g of 5-methoxy-2-methylpyridine in 300 ml of glacial acetic acid at 60° C. in the course of 1 hour and the mixture is subsequently stirred for 3 hours. After destruction of excess percompounds by addition of active manganese dioxide, the mixture is filtered, the filtrate is concentrated, the residue is clarified hot in 500 ml of ethyl acetate, the mixture is concentrated again and the residue is distilled under 0.3 mbar. 54 g (77% of theory) of 5-methoxy-2-methylpyridine 1-oxide are obtained as a rapidly solidifying oil (b.p. 130° C.); m.p. 80°-84° C.

reactant | hydrogen peroxide | OO | H2O2
reactant | 5-methoxy-2-methylpyridine | 60.9 g | COC=1C=CC(=NC1)C | C7H9NO
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 5-methoxy-2-methylpyridine 1-oxide | 54 g, 77% | COC=1C=CC(=[N+](C1)[O-])C | C7H9NO2
